US07842685B2
A mixture of bis(4-(di-tert-butylphosphino)-N,N-dimethylbenzenamine) palladium dichloride (0.252 g, 0.356 mmol), potassium carbonate (6.70 g, 48.5 mmol), 1-phenylvinylboronic acid (4.64 g, 31.4 mmol), and 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-chlorothiazolo[5,4-b]pyridine (5.00 g, 14.3 mmol) in 50 mL dioxane and 15 mL water was sealed and heated to 80° C. overnight. The reaction was cooled, diluted with DCM, water, and the aq. Layer was extracted with DCM. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to give a brown semi-solid. The solid was suspended in 100 mL EA, heated to 75° C., and filtered, rinsing with a small volume of hot EA. The filtrate was allowed to stand overnight, resulting in crystals, and was placed in the freezer overnight. The resulting crystals were collected by filtration, rinsing with a small volume of cold EA to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylvinyl)-thiazolo[5,4-b]pyridine as light brown crystals. MS (ESI) m/z: Calculated: 418.1; Observed: 419.0 (M++1).

reactant | potassium carbonate | 48.5 mmol, 6.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-phenylvinylboronic acid | 31.4 mmol, 4.64 g | C1(=CC=CC=C1)C(=C)B(O)O | C8H9BO2
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-chlorothiazolo[5,4-b]pyridine | 14.3 mmol, 5.00 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)Cl)F | C16H12ClFN2O2S
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
catalyst | bis(4-(di-tert-butylphosphino)-N,N-dimethylbenzenamine) palladium dichloride | 0.356 mmol, 0.252 g | [Pd](Cl)Cl.C(C)(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.C(C)(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylvinyl)-thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1=CC=CC=C1)F | C24H19FN2O2S
